US05250744
A one liter three-neck flask fitted with mechanical stirrer, thermometer, nitrogen inlet and addition funnel was charged with water (200 mL), tetrabutylammonium chloride (1.0 g) and 98% sodium borohydride (4.83 g, 0.125 mole). The solution was purged with nitrogen, then stirred and cooled to 4° C. in an ice bath. Crude methyl α-formylphenylacetate (90.6 g, 0.5 mole), prepared according to Example 9, was charged to the addition funnel, and rinsed in with t-butyl methyl ether (25 mL), and added to the above solution at 3°-8° C. The addition took a total of 100 minutes. After 20 minutes into the addition of formylacetate, a second charge of sodium borohydride (4.83 g) was added and rinsed in with water (20 mL). After an additional 1 hour and then again at 1.5 hours, sodium borohydride (4.83 g) in water (20 mL) was added to the batch. The slurry was held at 3° C. for an additional 6 hours, and then allowed to warm to room temperature overnight. The batch was cooled to 15° C., and concentrated hydrochloric acid (46 mL) was added. Methyl isobutyl ketone (MIBK, 100 mL) was added and the batch was stirred vigorously for 15 minutes. The pH of the batch was 1.0. Solid sodium carbonate (45 g) was added and the batch was stirred vigorously for 5 hours. The solids were separated by filtration and washed with MIBK. The solids were dried in vacuo at 65° C. (50.16 g). The aqueous layer from the main filtrate was extracted twice with the MIBK washes. The combined MIBK layers were washed with citric acid solution (10 mL, 5.6 g/15 mL water) and then with saturated sodium chloride solution (20 mL). The solution was filtered through Solka Floc and concentrated in vacuo to 75° C. The pale yellow oil (71.60 g) was crystallized from toluene (80 mL) to give 2-phenyl-1,3-propanediol (53.3 g, 70.05%) m.p. 52°-53.5° C.

reactant | sodium borohydride | 0.125 mole, 4.83 g | [BH4-].[Na+]
reactant | methyl α-formylphenylacetate | 0.5 mole, 90.6 g | C(=O)C(C(=O)OC)C1=CC=CC=C1 | C10H10O3
catalyst | tetrabutylammonium chloride | 1.0 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 200 mL | O | H2O
product | 2-phenyl-1,3-propanediol | 53.3 g, 70.05% | C1(=CC=CC=C1)C(CO)CO | C9H12O2
